US09421209B2
Intermediate 104: 6-bromo-3-hydroxy-3-methylindolin-2-one
To a ice-cold solution of methyl magnesium iodide prepared from magnesium (1.7 g, 70.78 mmoles) and methyl iodide (4.40 ml, 70.78 mmoles) in diethyl ether (60 ml), 6-bromoisatin (4 g, 17.69 mmoles) in THF (120 ml) was added and warmed to room temperature. After 12 h, the reaction mixture was cooled to 0° C., quenched with dilute HCl and extracted with ethyl acetate. The organic layer was dried over sodium sulphate and concentrated under reduced pressure to afford the title compound as brown solid (4.2 g, 93% yield). 1H-NMR (δ ppm, CDCl3, 400 MHz): δ 10.34 (s, 1H), 7.23 (t, J=7.9 Hz, 1H), 7.14 (dd, J=7.9, 1.7 Hz, 1H), 6.93 (d, J=1.6 Hz, 1H), 5.92 (s, 1H), 1.33 (s, 3H).

reactant | methyl magnesium iodide | C[Mg]I
reactant | magnesium | 70.78 mmoles, 1.7 g | [Mg] | Mg
reactant | methyl iodide | 70.78 mmoles, 4.40 ml | CI | CH3I
reactant | 6-bromoisatin | 17.69 mmoles, 4 g | BrC1=CC=C2C(C(NC2=C1)=O)=O | C8H4BrNO2
solvent | diethyl ether | 60 ml | C(C)OCC | C4H10O
solvent | THF | 120 ml | C1CCOC1 | C4H8O
product | 6-bromo-3-hydroxy-3-methylindolin-2-one | 4.2 g, 93% yield | BrC1=CC=C2C(C(NC2=C1)=O)(C)O | C9H8BrNO2
